US04125729
[p-(p-Chlorophenylthio)phenyl]acetic Acid
A solution of 6.0 g of 4-chlorothiophenol and 8.0 g of potassium hydroxide in 80 ml of water is heated to 50° C and 0.8 g of copper powder and 10.4 g of 4-iodophenylacetic acid are added. The mixture is heated to reflux and maintained at reflux overnight. The mixture is then cooled and filtered. The filtrate is acidified with concentrated HCl to give a white solid which, on recrystallization from methanol, yields cream colored plates, mp 135°-140° C. A sample is recrystallized frm chloroform-hexane to give white plates, mp 144.5°-148° C.

reactant | 4-chlorothiophenol | 6.0 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium hydroxide | 8.0 g | [OH-].[K+]
reactant | 4-iodophenylacetic acid | 10.4 g | IC1=CC=C(C=C1)CC(=O)O | C8H7IO2
solvent | water | 80 ml | O | H2O
catalyst | copper | 0.8 g | [Cu] | Cu
product | [p-(p-Chlorophenylthio)phenyl]acetic Acid | ClC1=CC=C(C=C1)SC1=CC=C(C=C1)CC(=O)O | C14H11ClO2S
